US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-2-(3,4-dimethoxyphenylamino)-ethylamine
The title compound is prepared from 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl chloride and 2-(3,4-dimethoxyphenylamino)-ethylamine analogously to Example 6.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl chloride | COC1=CC2=C(C(C(N(CC2)CCCCl)=O)=O)C=C1OC | C15H18ClNO4
reactant | 2-(3,4-dimethoxyphenylamino)-ethylamine | COC=1C=C(C=CC1OC)NCCN | C10H16N2O2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-2-(3,4-dimethoxyphenylamino)-ethylamine | COC1=CC2=C(C(C(N(CC2)CCCNCCNC2=CC(=C(C=C2)OC)OC)=O)=O)C=C1OC | C25H33N3O6
